US07935722B2
N-[6-Ethoxy-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Add N-[9-(3-fluoro-benzyl)-6-hydroxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide (175 mg, 0.46 mmol), ethyl iodide (72 mg 0.46 mmol), and sodium hydride (60% suspension in mineral oil, 37 mg, 0.92 mmol) to dimethylformamide (1 mL) and stir at room temperature overnight. Dilute the reaction with ethyl acetate, wash with water (2×), dry over sodium sulfate, and concentrate. Recrystallize from ethyl acetate/hexanes to obtain the title compound (107 mg, 57%): MS (ES): m/z (M+1); 1H NMR (CDCl3): δ 7.28 (m, 1H), 7.11 (d, 1H), 6.98 (s, 1H), 6.97 (m, 1H), 6.82 (d, 1H), 6.79 (d, 1H), 6.65 (d, 1H), 5.58 (broad s, 1H, NH), 5.22 (s, 2H), 4.44 (m, 1H), 4.09 (q, 2H), 3.15 (dd, 1H), 2.60-2.81 (m, 3H), 2.33 (m, 1H), 2.15 (m, 2H), 1.45 (t, 1H), 1.18 (m, 6H).

reactant | N-[9-(3-fluoro-benzyl)-6-hydroxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 0.46 mmol, 175 mg | FC=1C=C(CN2C3=CC=C(C=C3C=3CC(CCC23)NC(C(C)C)=O)O)C=CC1 | C23H25FN2O2
reactant | ethyl iodide | 0.46 mmol, 72 mg | C(C)I | C2H5I
reactant | sodium hydride | 0.92 mmol, 37 mg | [H-].[Na+]
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[6-Ethoxy-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 107 mg, 57% | C(C)OC=1C=C2C=3CC(CCC3N(C2=CC1)CC1=CC(=CC=C1)F)NC(C(C)C)=O | C25H29FN2O2
